US04585780
The preparation of 1-carboxymethyl-3-hydroxypyrid-2-one
1-Ethoxycarbonylmethyl-3-hydroxypyrid-2-one (2 g) is dissolved in 15 ml of 1:2 v/v ethanol/water containing sufficient ammonium hydroxide to create a pH of 12.0. The solution is heated at 60° C. for 30 minutes, cooled, and acidified to pH 3.0 by the addition of formic acid. The solution is rotary evaporated to remove most of the ethanol and then freeze dried for 20 hours to remove the water, formic acid and ammonium formate. The resulting solid is recrystallised from water to yield white crystals (1.4 g), m.p. 203°-205° C.; νmax (nujol) 1540, 1590, 1640, 1695, 3240 cm-1 ; δ(d6DMSO) 4.5 (s, 2H), 5.95 (t, 1H), 6.6 (d, 1H), 7.0 (d, 1H).

reactant | 1-Ethoxycarbonylmethyl-3-hydroxypyrid-2-one | 2 g | C(C)OC(=O)CN1C(C(=CC=C1)O)=O | C9H11NO4
reactant | formic acid | C(=O)O | CH2O2
solvent | ethanol water | C(C)O.O
product | 1-carboxymethyl-3-hydroxypyrid-2-one | 1.4 g | C(=O)(O)CN1C(C(=CC=C1)O)=O | C7H7NO4
